US08389720B2
tert-butyl 4-[cyano(phenyl)methyl]-4-hydroxypiperidine-1-carboxylate
Benzyl cyanide (2.96 ml, 25.6 mmol) in THF (125 ml) was cooled to −78° C. nBuLi (16.17 ml, 25.9 mmol) was added dropwise over 20 min via syringe pump, and the reaction stirred for 30 min. 1-BOC-4-piperidone (5.10 g, 25.6 mmol) in THF (20 ml) was added over 20 min via syringe pump and the reaction stirred for 2.5 hours. While still cold, the reaction was quenched with satd. NH4Cl and allowed to warm overnight. The mixture was partitioned between CH2Cl2 and satd. NH4Cl, the aqueous portion extracted 3×CH2Cl2, and the organic portion dried (Na2SO4) then concentrated in vacuo. The resulting material was carried on without further purification.

reactant | Benzyl cyanide | 25.6 mmol, 2.96 ml | C(C1=CC=CC=C1)C#N | C8H7N
reactant | nBuLi | 25.9 mmol, 16.17 ml | [Li]CCCC
reactant | 1-BOC-4-piperidone | 25.6 mmol, 5.10 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
solvent | THF | 125 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-[cyano(phenyl)methyl]-4-hydroxypiperidine-1-carboxylate | C(#N)C(C1(CCN(CC1)C(=O)OC(C)(C)C)O)C1=CC=CC=C1 | C18H24N2O3
